US07250418B2
Preparation of benzyl (3R,4S)-3-[(3,6-diethyl-5-iodopyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate
Following the procedure for the preparation of methyl (3R,4S)-3-[(3,6-diethyl-5-iodopyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate but substituting benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.30–7.25, 5.06, 4.96, 4.53, 3.96, 3.86, 3.64–3.47, 3.35, 3.25–3.13, 2.68, 2.51, 1.20–1.12; IR (liq.) 2972, 2338 (w), 1949 (w), 1708 (s), 1554 (s), 1537 (s), 1475 (s), 1456 (s), 1447 (s), 1421 (s), 1394 (s), 1351 (s), 1165, 1126, 1097 (s) cm−1 HRMS (ESI) calcd for C22H29N4O3I+H1 25.1364. found 525.1359. Anal. Calcd for C22H29IN4O3: C, 50.39; H, 5.57; N, 10.68. Found: C, 50.48; H, 5.60; N, 10.44.

reactant | methyl (3R,4S)-3-[(3,6-diethyl-5-iodopyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=C(N1)I)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OC | C16H25IN4O3
reactant | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C22H30N4O3
product | benzyl (3R,4S)-3-[(3,6-diethyl-5-iodopyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=C(N1)I)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C22H29IN4O3
